US07842694B2
1,1-Dimethylethyl 3-[({3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate
The preparations of 3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]benzoic acid and 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate were described earlier.

reactant | 3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]benzoic acid | CC(C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C17H18O4
reactant | 1,1-dimethylethyl 3-amino-1H-pyrazole-1-carboxylate | NC1=NN(C=C1)C(=O)OC(C)(C)C | C8H13N3O2
product | 1,1-Dimethylethyl 3-[({3-[(1-methylethyl)oxy]-5-[(phenylmethyl)oxy]phenyl}carbonyl)amino]-1H-pyrazole-1-carboxylate | CC(C)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)C(=O)NC1=NN(C=C1)C(=O)OC(C)(C)C | C25H29N3O5
